US03951993
Upon boiling a solution of 7.1 g of 3-chlorobenzaldehyde and 15.9 g of 3-amino-3-ethoxyacrylic acid ethyl ester in 40 ml of isopropanol for 8 hours, 2-amino-4-(3-chlorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester of melting point 121°C is obtained.

reactant | 3-chlorobenzaldehyde | 7.1 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | 3-amino-3-ethoxyacrylic acid ethyl ester | 15.9 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
solvent | isopropanol | 40 ml | C(C)(C)O | C3H8O
product | 2-amino-4-(3-chlorophenyl)-6-ethoxy-4,5-dihydropyridine-3,5-dicarboxylic acid diethyl ester | C(C)OC(=O)C1=C(N=C(C(C1C1=CC(=CC=C1)Cl)C(=O)OCC)OCC)N | C19H23ClN2O5
